US08193189B2
1-(4-Bromo-2-methyl-phenyl)-4-ethyl-piperazine
4-(4-Ethyl-piperazin-1-yl)-3-methyl-phenylamine (1.3 g, 6 mmol) in hydrobromic acid (61% in H2O, 9.2 ml, 70 mmol) is diazotized at 0° C. with sodium nitrite (443 mg, 6.42 mmol) in 2.3 ml H2O and the mixture is poured into a solution of copper(I) bromide (1.84 g, 12.5 mmol) in hydrobromic acid (61% in H2O, 7.7 ml, 58.8 mmol) at 0° C. The cooling bath is then removed and the mixture is heated at 60° C. for 5 h. After cooling, the mixture is basified with a 2M NaOH solution and diluted with CH2Cl2. After separation, the aqueous phase is extracted with CH2Cl2 several times. The combined organic layers are washed with brine, dried over Na2SO4, filtered and the filtrate is concentrated in vacuo. The residue is purified by chromatography on a 120 g silica gel column on a Combiflash Companion™ (Isco Inc.) apparatus (gradient CH2Cl2/CH2Cl2:EtOH:NH3 90:9:1 from 1:0=>4:6) to afford the title compound as a pale brown solid, Rt=0.878 min (Acquity HPLC BEH C18, 2.1×50 mm, 1.7 micron, detection 215 nM, 0.1 min 2% CH3CN in H2O, 2% to 100% CH3CN in H2O in 1.5 min, 0.4 min 100% CH3CN+0.1% TFA, flow rate 1.0 ml/min); MS: 283 (M+1, 79Br)+.

reactant | 4-(4-Ethyl-piperazin-1-yl)-3-methyl-phenylamine | 6 mmol, 1.3 g | C(C)N1CCN(CC1)C1=C(C=C(C=C1)N)C | C13H21N3
reactant | hydrobromic acid | 70 mmol, 9.2 ml | Br | BrH
reactant | sodium nitrite | 6.42 mmol, 443 mg | N(=O)[O-].[Na+]
reactant | hydrobromic acid | 58.8 mmol, 7.7 ml | Br | BrH
solvent | H2O | 2.3 ml | O | H2O
catalyst | copper(I) bromide | 12.5 mmol, 1.84 g | [Cu]Br
product | 1-(4-Bromo-2-methyl-phenyl)-4-ethyl-piperazine | BrC1=CC(=C(C=C1)N1CCN(CC1)CC)C | C13H19BrN2
